US07173061B2
Intermediate 2 diethyl(3-chloropropyl)amine
A solution of 3-diethylamino-1-propanol (Aldrich) (10 g, 76 mmol) in DCM was stirred at 0° C. A solution of thionyl chloride (DCM 30 mL) was then added drop-wise such that the reaction temperature remained at 0° C. Once addition is complete, the reaction was refluxed for one hour. The reaction was allowed to cool and the excess DCM and thionyl chloride were removed under vacuum. The residue was basified (pH8–9) using 2N NaOH and the aqueous mixture extracted with DCM (3×100 mL). The organic extracts were combined, dried (MgSO4) and evaporated to give a brown oil. The oil was distilled (160°–165° C.) to give the product as a clear oil (4.2 g 36.9%).

reactant | 3-diethylamino-1-propanol | 76 mmol, 10 g | C(C)N(CCCO)CC | C7H17NO
reactant | thionyl chloride | 30 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | C(Cl)Cl | CH2Cl2
product | diethyl(3-chloropropyl)amine | 4.2 g, 36.9% | C(C)N(CCCCl)CC | C7H16ClN
